US08278331B2
A mixture of 4-fluoro-2-methyl-5-nitro-phenol (1.4 g, 8.2 mmol) and 10% Pd/C (0.3 g, 20%/w) in MeOH (80 mL) was stirred under H2 (30 psi) for 2 h. The Pd/C was removed by filtration and the filtrate was concentrated to give 5-amino-4-fluoro-2-methyl-phenol (0.68 g, 62% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.75 (s, 1H), 6.62 (d, J=12.0 Hz, 1H), 6.21 (d, J=8.1 Hz, 1H), 4.69 (s, 2H), 1.93 (s, 3H).

reactant | 4-fluoro-2-methyl-5-nitro-phenol | 8.2 mmol, 1.4 g | FC1=CC(=C(C=C1[N+](=O)[O-])O)C | C7H6FNO3
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 5-amino-4-fluoro-2-methyl-phenol | 0.68 g, 62% yield | NC=1C(=CC(=C(C1)O)C)F | C7H8FNO
